US05412083
MBTH assay
Nitrous acid oxidation followed by reaction with 3-methyl-2-benzothiazolone hydrazone hydrochloride (MBTH) and then FeCl3 was used to measure the number of free amino groups (equivalent to the number of glucosamines) in the glycolchitosan and derived products (Davies et al., Meth. Enzymol. 161:442-446 (1988)). The assay was standardized with glucosamine on a weight basis. Also the MBTH/Fe3+ stage of this procedure was used to measure the number of aldehyde groups, similarly relying on standardization with glucosamine treated with nitrous acid.

reactant | Nitrous acid | N(=O)O | HNO2
reactant | 3-methyl-2-benzothiazolone hydrazone hydrochloride | Cl.CN1C(SC2=C1C=CC=C2)=NN
reactant | glucosamine | OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H13NO5
product | MBTH | CN\1C2=CC=CC=C2S/C1=N\N | C8H9N3S
